US08097641B2
(2S)-Benzyl-methyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine
(6S)-6-[Benzyl(methyl)amino]-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate (5.0 g, 12.517 mmol), 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester (3.60 g, 15.246 mmol) and Pd(PPh3)4 (1.70 g, 1.471 mmol) were added to a solution of K2CO3 (3.31 g, 23.95 mmol) in a mixture of 1,2,-dimethoxyethane (120 mL) and H2O (15 mL). The reaction mixture was purged with N2 (g) for 10 min, and warmed up to reflux. The reaction was completed in 3 h (TLC analysis). It was allowed to reach room temperature, diluted with H2O (150 mL) and extracted with AcOEt (300 mL). The organic layer was filtered through Celite (washing with AcOEt), dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel (0-10-20% Et3N/AcOEt) to afford the desired product as a brown-colored oil. The material was dissolved in CH2Cl2 (100 mL) and acidified with HCl aqueous solution (6 N). The organic layer was discarded, and the aqueous layer was taken to pH>13 with NaOH aqueous solution (6 N). It was extracted with CH2Cl2 (3×200 mL), and the organic layer was dried over anhydrous Na2SO4, filtered and concentrated, to give 3.67 g of the coupling product (Rf=0.3 (AcOEt), pale yellow oil, 81% yield).

reactant | (6S)-6-[Benzyl(methyl)amino]-5,6,7,8-tetrahydronaphthalen-1-yl trifluoromethanesulfonate | 12.517 mmol, 5.0 g | FC(S(=O)(=O)OC1=CC=CC=2C[C@H](CCC12)N(C)CC1=CC=CC=C1)(F)F | C19H20F3NO3S
reactant | 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester | 15.246 mmol, 3.60 g | CN1N=C(C(=C1C)B1OC(C)(C)C(C)(C)O1)C | C12H21BN2O2
reactant | K2CO3 | 23.95 mmol, 3.31 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2,-dimethoxyethane | 120 mL | COCCOC | C4H10O2
solvent | H2O | 15 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.471 mmol, 1.70 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-Benzyl-methyl-[5-(1,3,5-trimethyl-1H-pyrazol-4-yl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amine | C(C1=CC=CC=C1)N([C@@H]1CC2=CC=CC(=C2CC1)C=1C(=NN(C1C)C)C)C | C24H29N3
